US06048852
c) Methyl 2-hydroxyimino-2-(4isopropylphenyl)acetate
Hydroxylamine hydrochloride (0.87 g) was added to a stirred solution of the previously obtained mixture of methyl 2-oxo-2-(4-isopropyl-phenyl)acetate and methyl 4-isopropylphenyl acetate (1.29 g) in methanol (20 ml). When the solid had dissolved the mixture was left overnight. The solvent was evaporated and the residue partitioned between ethyl acetate and water, the organic phase was washed with water and brine, dried over magnesium sulphate and evaporated. The product (307 mg) was obtained by column chromatography of the residue using gradient elution (Kieselgel 3:1 to 1:1 hexane:ethyl acetate). νmax (CHCl3)/cm-1 3568, 3295 and 1738. δH (250 MHz, CDCl3), 1.28 (6H, d, J 6.87), 2.95 (1H, heptet, J 6.92), 3.88 (3H, s), 7.32 (2H, dd, J 1.81 and 6.47), 7.47 (2H, dd, J 1.83 and 6.65), 9.59 (1H, s).

reactant | Hydroxylamine hydrochloride | 0.87 g | Cl.NO
reactant | methyl 2-oxo-2-(4-isopropyl-phenyl)acetate | O=C(C(=O)OC)C1=CC=C(C=C1)C(C)C | C12H14O3
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 2-hydroxyimino-2-(4isopropylphenyl)acetate | 307 mg | ON=C(C(=O)OC)C1=CC=C(C=C1)C(C)C | C12H15NO3
